US07495022B2
(5-1) N-(4-Hydroxymethylbenzyl)-4-pyrrolidin-1-ylbenzamide
To a mixture of 4-pyrrolidin-1-ylbenzoic acid (2.0 g, 10.5 mmol), (4-aminomethylphenyl)methanol (4.3 g, 31.4 mmol), 1-hydroxybenzotriazole (1.7 g, 12.6 mmol), and DMAP (256 mg, 2.1 mmol) in pyridine (50 mL) was added EDC (3.0 g, 15.7 mmol), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and an aqueous NaHCO3 solution (50 mL) was added. The mixture was extracted with 5% MeOH in CHCl3 (150 mL×2), and the organic layer was dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by MPLC on silica gel (3% MeOH in CHCl3) to afford the titled compound (2.56 g, 79%) as a white solid.

reactant | 4-pyrrolidin-1-ylbenzoic acid | 10.5 mmol, 2.0 g | N1(CCCC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO2
reactant | (4-aminomethylphenyl)methanol | 31.4 mmol, 4.3 g | NCC1=CC=C(C=C1)CO | C8H11NO
reactant | 1-hydroxybenzotriazole | 12.6 mmol, 1.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 15.7 mmol, 3.0 g
catalyst | DMAP | 2.1 mmol, 256 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Hydroxymethylbenzyl)-4-pyrrolidin-1-ylbenzamide | 2.56 g, 79% | OCC1=CC=C(CNC(C2=CC=C(C=C2)N2CCCC2)=O)C=C1 | C19H22N2O2
